US05663168
c) 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-methoxyphenylmethyl)-hexanoic acid
1.7 g (3.99 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(p-methoxy-phenylmethyl)-dihydrofuran-2-(3H)-one in 43 ml of dimethoxyethane and 11 ml of water are hydrolysed with 16 ml of 1M lithium hydroxide solution. Stirring in ether yields the pure title compound: TLC Rf (F)=0.53; tRet (I)=14.2 min; FAB-MS (M+Na)+ =466.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(p-methoxy-phenylmethyl)-dihydrofuran-2-(3H)-one | 3.99 mmol, 1.7 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OC | C25H31NO5
reactant | lithium hydroxide | 1M, 16 ml | [OH-].[Li+]
solvent | dimethoxyethane | 43 ml | C(OC)COC | C4H10O2
solvent | water | 11 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(p-methoxyphenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1=CC=CC=C1 | C25H33NO6
